US07820659B2
(R)-4-Benzyl-3-[(S)-2-(4-benzyloxy-2,6-dichloro-benzyl)-pent-4-enoyl]-oxazolidin-2-one
Stir a mixture of (R)-4-benzyl-3-pent-4-enoyl-oxazolidin-2-one (345 g, 1.33 mol) and THF (1.8 L) in a 12 L 3-neck round bottom flask, with internal temperature probe/nitrogen inlet and addition funnel, under a nitrogen atmosphere and cool to −75° C. Transfer 1 M LiHMDS (1.6 L) to the addition funnel and add at a rate such that the internal temperature does not reach above −60° C. After the addition is complete, allow the reaction to stir at −25° C. for 30 min then cool to about −60° C. At this point add solid 2-bromomethyl-1,3-dichloro-5-benzyloxy-benzene portionwise over 5 min. After the addition is complete, transfer the reaction vessel to a −10° C. acetone bath and maintain the internal reaction temperature below 10° C. for 1 hr. Cool the mixture to 0° C. then quench with 2 L aqueous 1N hydrochloric acid. Transfer the mixture to a 22 L separatory funnel and dilute with 2.5 L water and 2 L ether. Separate the layers and extract the aqueous layer with ether. Dry the combined organic phase over anhydrous magnesium sulfate, filter and concentrate to 800 g of a thick oil. Purify by silica gel chromatography using hexanes:ethyl acetate to obtain 597 g, (86%) of a colorless oil.

reactant | (R)-4-benzyl-3-pent-4-enoyl-oxazolidin-2-one | 1.33 mol, 345 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCC=C)=O | C15H17NO3
reactant | LiHMDS | 1 M, 1.6 L | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-bromomethyl-1,3-dichloro-5-benzyloxy-benzene | BrCC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl | C14H11BrCl2O
solvent | THF | 1.8 L | C1CCOC1 | C4H8O
product | (R)-4-Benzyl-3-[(S)-2-(4-benzyloxy-2,6-dichloro-benzyl)-pent-4-enoyl]-oxazolidin-2-one | 86% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=C)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C29H27Cl2NO4
